US08071588B2
{3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid
To the solution of (3-formylphenyl)boronic acid (3.0 g, 20.0 mmol) in DCM (100 mL) was added 1,1-dimethylethyl 1-piperazinecarboxylate (3.91 g, 21.0 mmol), and NaBH(OAc)3 (6.36 g, 30.0 mmol), and the mixture stirred at room temperature for 17 h. The organic layer was diluted with EtOAc (100 mL), washed with H2O (30 mL), dried over Na2SO4, filtered and concentrated to afford 7.72 g (quantitative) of the title compound. LC-MS m/z 321 (M+H)+.

reactant | (3-formylphenyl)boronic acid | 20.0 mmol, 3.0 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 21.0 mmol, 3.91 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | NaBH(OAc)3 | 30.0 mmol, 6.36 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)B(O)O | C16H25BN2O4
